US07217736B2
4-Methyl-1-pentyl 5-amino-4-oxopentanoate hydrochloride [compound 8]
From 4-methyl-1-pentanol (6.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 2 h. The yield was 1.32 g (87%).

reactant | 4-methyl-1-pentanol | 6.0 ml | CC(CCCO)C | C6H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Methyl-1-pentyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCCC(C)C)=O | InChI=1S/C11H21NO3.ClH/c1-9(2)4-3-7-15-11(14)6-5-10(13)8-12;/h9H,3-8,12H2,1-2H3;1H
